* C:\Users\hilo90mhz\Documents\GitHub\electric_dump_load_controller_AC-DC\LTspice_sim\dump_load_sim.asc
V1 N005 0 15
M1 P001 Vgate 0 0 IPB039N10N3
C1 Vbatt 0 100µ Rser=7m
R1 HydroRectified P001 11
V3 NC_01 0 600
R2 Vbatt N012 0.01
R4 Vbatt 0 100
V4 Vload 0 PULSE(0 8 0 10n 10n 8m 5.33ms)
M2 P002 Vload 0 0 IPB039N10N3
R5 N010 P002 15
XU1 NC_02 NC_03 NC_04 NC_05 NC_06 LT1013
XU2 NC_07 NC_08 NC_09 NC_10 NC_11 LT1013
V5 Vref 0 PULSE(0 15 0 25u 25u 1n 50u)
C2 P003 Vfb 10p
R6 Vbatt Vfb 120k
R7 Vfb 0 2k
XU3 N005 Vref VfreedbackIntermediate 0 0 0 VfbOut NC_12 LT1016
V6 N007 0 6
XU4 N007 Vfb N005 0 VfreedbackIntermediate LT1213
R8 Vfb P004 40k
C4 P004 VfreedbackIntermediate 10p
R9 Vbatt P003 10k
A2 VfbOut 0 0 0 0 0 Vgate 0 BUF Vhigh=12 Vlow=0 Ref=1.5
D1 HydroRectified N012 D
V8 N004 N003 SINE(0 600 60 0 0 0) Rser=10
D3 0 N001 D
D4 N001 HydroRectified D
D5 N003 HydroRectified D
D6 0 N003 D
D7 0 N004 D
D8 N004 HydroRectified D
C5 N011 0 10µ
R3 HydroRectified N011 .2
Lp1 NC_17 NC_18 500µ Rser=.01
Ls1 NC_19 NC_20 1µ Rser=.01
Lp2 NC_21 NC_22 500µ Rser=.01
Lp3 NC_23 NC_24 500µ Rser=.01
Ls2 NC_25 NC_26 1µ Rser=.01
Ls3 NC_27 NC_28 1µ Rser=.01
D2 N006 N002 D
D9 0 N006 D
D10 0 N008 D
D11 0 N009 D
D12 N009 N002 D
D13 N008 N002 D
R10 NC_29 NC_30 10
V2 NC_31 0 48
V7 N003 N001 SINE(0 600 60 0 0 -120) Rser=10
V9 N001 N004 SINE(0 600 60 0 0 120) Rser=10
.model D D
.lib C:\Users\hilo90mhz\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hilo90mhz\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 40m startup
.meas start param 20ms
K1 Lp1 Ls1 1
K2 Lp2 Ls2 1
K3 Lp3 Ls3 1
.lib LTC.lib
.backanno
.end
